US05559111
l) 4(R)-Benzyl-3-{2(R)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propionyl}-oxazolidin-2-one
600 ml of tetrahydrofuran are added to a solution of 600 ml of 1M lithium hexamethyl-disilazide and the mixture is stirred at -70° C. Then a solution of 156.6 g of 4(R)-benzyl-3-isovaleroyl-oxazolidin-2-one in 500 ml of tetrahydrofuran is added dropwise and the reaction mixture is stirred for a further 75 minutes at -70° C. Then a solution of 145 g of 4-methoxy-3-(3-methoxypropyloxy)-benzyl bromide in 500 ml of tetrahydrofuran is added dropwise. The temperature of the reaction mixture is allowed to rise from -70° to 0° C. over a period of 2 hours. The reaction mixture is left to stand for a further 18 hours at 4° C. and then, with stirring, 250 ml of saturated ammonium chloride solution are added. The tetrahydrofuran is evaporated off and the residue is extracted with ethyl acetate. The title compound is obtained from the residue of the extracts by purification by means of FC (2.4 kg of silica gel, ethyl acetate/hexane=1:1): Rf (ethyl acetate/hexane=1:2)=0.30; m.p. 55°-56° C.

reactant | lithium hexamethyl-disilazide | 1M, 600 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4(R)-benzyl-3-isovaleroyl-oxazolidin-2-one | 156.6 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC(C)C)=O | C15H19NO3
reactant | 4-methoxy-3-(3-methoxypropyloxy)-benzyl bromide | 145 g | COC1=C(C=C(CBr)C=C1)OCCCOC | C12H17BrO3
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4(R)-Benzyl-3-{2(R)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propionyl}-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)=O | C27H35NO6
